US04046841
1-Chloro-3-(5-chloropyrid-2-yloxy)propan-2-one (400 mg.) was dissolved in ethanol (4 ml.) with warming, and stirred while a solution of semicarbazide hydrochloride (223 mg.) in water (2 ml.) was added. The mixture was cooled in ice for 11/2 hours and filtered, and the filter cake was washed with a 1:1 v/v mixture of ethanol and water (1 ml.), then with water (3 × 1 ml.). The product was dried in a desiccator over silica gel to give 1-chloro-3-(5-chloropyrid-2-yloxy)-2-semicarbazonopropane, RF = 0.72 (5% v/v methanol in ethyl acetate), m.p. 115°-117° C.

reactant | 1-Chloro-3-(5-chloropyrid-2-yloxy)propan-2-one | 400 mg | ClCC(COC1=NC=C(C=C1)Cl)=O | C8H7Cl2NO2
reactant | semicarbazide hydrochloride | 223 mg | Cl.NNC(=O)N
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 1-chloro-3-(5-chloropyrid-2-yloxy)-2-semicarbazonopropane | ClCC(COC1=NC=C(C=C1)Cl)=NNC(=O)N | C9H10Cl2N4O2
